US07910740B2
3,3,3-Trifluoro-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl}-propan-1-one
The title compound was prepared in analogy to example 45 from 90 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride and 30 mg (0.2 mmol) 3,3,3-trifluoropropionylchloride yielding 29 mg (32%) 3,3,3-trifluoro-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl}-propan-1-one as a light yellow solid. MS ISP (m/e): 452.0 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.33 (s, 1H), 7.65 (S, 1 h), 7.47 (S, 1 h), 7.30-7.25 (m, 2H), 7.02 (s, 1H), 4.57 (br s, 2H), 3.85-3.59 (br m, 2H), 3.78 (s, 3H), 2.75 (m, 1H), 2.62 (m, 1H), 2.14 (s, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride | 0.2 mmol, 90 mg | Cl.Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=2CNCCC2N1
reactant | 3,3,3-trifluoropropionylchloride | 0.2 mmol, 30 mg | FC(CC(=O)Cl)(F)F | C3H2ClF3O
product | 3,3,3-Trifluoro-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl}-propan-1-one | FC(CC(=O)N1CC2=C(CC1)N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)(F)F | C20H20F3N5O2S
